US04001419
A solution of 4-benzyloxy-6-methoxy-1'-methylxanthene-9-spiro-4'-piperidine hydrochloride (1.5 g.) in ethanol (200 ml.) is hydrogenated using 5% w/w palladium-on-carbon catalyst at 1 atmosphere and 25° C. The catalyst is filtered off and the ethanol evaporated to give a gummy residue which is crystallised from ethanol-ether to give 4-hydroxy-6-methoxy-1'-methylxanthene-9-spiro-4'-piperidine hydrochloride, m.p. 223°-224° C.

reactant | 4-benzyloxy-6-methoxy-1'-methylxanthene-9-spiro-4'-piperidine hydrochloride | 1.5 g | Cl.C(C1=CC=CC=C1)OC1=CC=CC2=C1OC1=CC(=CC=C1C21CCN(CC1)C)OC
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 4-hydroxy-6-methoxy-1'-methylxanthene-9-spiro-4'-piperidine hydrochloride | Cl.OC1=CC=CC2=C1OC1=CC(=CC=C1C21CCN(CC1)C)OC | InChI=1S/C19H21NO3.ClH/c1-20-10-8-19(9-11-20)14-7-6-13(22-2)12-17(14)23-18-15(19)4-3-5-16(18)21;/h3-7,12,21H,8-11H2,1-2H3;1H
